US06468995B1
Under nitrogen atomosphere, thiobenzoic acid (2.52 ml) was added dropwise to a solution of potassium tert-butoxide (2.30 g) in DMF (15 ml) under ice cooling. After stirring for 10 minutes, 2-chloromethyl-5-methyl-1,3,4-thiadiazole in DMF (15 ml) was added to the mixture. The whole mixture was and stirred for 45 minutes. The mixture was poured into a mixture of water and ethyl acetate, and the pH was adjusted to 8.5 with 30% aqueous sodium hydroxide. Organic layer was separated, was washed with water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified on silica gel (eluent: n-hexane-ethyllactate) to afford 2-methyl-5-benzoylthiomethyl-1,3,4-thiadiazole.

reactant | thiobenzoic acid | 2.52 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium tert-butoxide | 2.30 g | CC(C)([O-])C.[K+]
reactant | 2-chloromethyl-5-methyl-1,3,4-thiadiazole | ClCC=1SC(=NN1)C | C4H5ClN2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-methyl-5-benzoylthiomethyl-1,3,4-thiadiazole | CC=1SC(=NN1)CSC(C1=CC=CC=C1)=O | C11H10N2OS2
